US04547502
2-[2-(4-(1-Pyrrolin-2-yl)-piperazin-1-yl)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
4-(2-Chlorophenyl)-3-(ethoxycarbonyl)-3-(methoxycarbonyl)-6-methyl-2-[2-(piperazin-1-yl)ethoxymethyl]-1,4-dihydropyridine (0.7 g) was dissolved in 10 ml of ethanol and converted to the oxalate salt by addition of a solution of 0.15 g of oxalic acid in 5 ml of ethanol. To this suspension was added 0.12 g of 2-ethoxypyrroline and the mixture was refluxed for 18 hours. The reaction mixture was then filtered through "Solka-floc" (Trade Mark) and evaporated to dryness. The resultant solid was basified with aqueous sodium carbonate solution and extracted with methylene chloride to give a white solid. After two crystallizations from diisopropylether, there was obtained 0.1 g of the title compound, m.p. 104°.

reactant | 4-(2-Chlorophenyl)-3-(ethoxycarbonyl)-3-(methoxycarbonyl)-6-methyl-2-[2-(piperazin-1-yl)ethoxymethyl]-1,4-dihydropyridine | 0.7 g | ClC1=C(C=CC=C1)C1C(C(NC(=C1)C)COCCN1CCNCC1)(C(=O)OC)C(=O)OCC | C24H34ClN3O5
reactant | oxalic acid | 0.15 g | C(C(=O)O)(=O)O | C2H2O4
reactant | 2-ethoxypyrroline | 0.12 g | C(C)OC=1NCCC1 | C6H11NO
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 2-[2-(4-(1-Pyrrolin-2-yl)-piperazin-1-yl)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.1 g | N1=C(CCC1)N1CCN(CC1)CCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C28H37ClN4O5
